US08729098B2
(5-Bromo-8-hydroxyquinolin-7-yl)(isoindolin-2-yl)methanone
A mixture of 5-bromo-8-hydroxyquinoline-7-carboxylic acid of Preparation 4 (150 mg, 0.56 mmol) and di(1H-imidazol-1-yl)methanone (90.7 mg, 0.56 mmol) in THF (10 mL) was heated to reflux for 3 h, under nitrogen. The reaction mixture was allowed to cool to RT and isoindoline (53 mg, 0.45 mmol) was added. The resulting mixture was stirred at RT overnight. The reaction mixture was then quenched with H2O and an aqueous saturated solution of sodium hydrogen carbonate, and twice extracted with DCM. The separated organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by SPE-SI cartridge (2 g, DCM to DCM:MeOH 99:1) affording the title compound (39.1 mg, 0.11 mmol) as a light brown solid.

reactant | 5-bromo-8-hydroxyquinoline-7-carboxylic acid | BrC1=C2C=CC=NC2=C(C(=C1)C(=O)O)O | C10H6BrNO3
reactant | di(1H-imidazol-1-yl)methanone | 0.56 mmol, 90.7 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | isoindoline | 0.45 mmol, 53 mg | C1NCC2=CC=CC=C12 | C8H9N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-Bromo-8-hydroxyquinolin-7-yl)(isoindolin-2-yl)methanone | 0.11 mmol, 39.1 mg | BrC1=C2C=CC=NC2=C(C(=C1)C(=O)N1CC2=CC=CC=C2C1)O | C18H13BrN2O2
